US05739351
94.4 cm3 of a 1.6M solution of butyllithium in hexane are added dropwise to a solution of 16.5 cm3 of 2-fluorobromobenzene in 200 cm3 of tetrahydrofuran, cooled to -78° C. The reaction mixture is stirred at -78° C. for 2 hours, and then a solution of 8.1 g of (3aRS,6SR,7aSR)-6-hydroxymethyl-2-tert-butyloxycarbonylperhydroisoindol-4-one in 20 cm3 of tetrahydrofuran is added. The reaction mixture is subsequently stirred at room temperature for 48 hours, then treated with 50 cm3 of saturated aqueous ammonium chloride solution and subjected to extraction with 200 cm3 of ethyl acetate, and the organic phase is washed with 100 cm3 of saturated sodium chloride solution, dried over magnesium sulphate and concentrated to dryness under reduced pressure (2.7 kPa). The residue is chromatographed on a silica gel column (particle size 0.04-0.06 mm, diameter 6 cm, height 35 cm), eluting under a pressure of 0.5 bar of nitrogen with a mixture of cyclohexane and ethyl acetate (50:50 by volume) and collecting fractions of 75 cm3. Fractions 21 to 45 are combined and then concentrated to dryness under reduced pressure (2.7 kPa). 6.35 g of (3aRS,4RS,6SR,7aSR)-6-hydroxymethyl-4-(2-fluorophenyl)-2-tert-butyloxycarbonylperhydroisoindol 4-ol are obtained in the form of a thick white foam.

reactant | butyllithium | C(CCC)[Li]
reactant | 2-fluorobromobenzene | 16.5 cm3 | FC1=C(C=CC=C1)Br | C6H4BrF
reactant | (3aRS,6SR,7aSR)-6-hydroxymethyl-2-tert-butyloxycarbonylperhydroisoindol-4-one | 8.1 g | OCC1CC(C2CN(CC2C1)C(=O)OC(C)(C)C)=O | C14H23NO4
reactant | ammonium chloride | 50 cm3 | [Cl-].[NH4+]
solvent | hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 200 cm3 | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 cm3 | O1CCCC1 | C4H8O
product | (3aRS,4RS,6SR,7aSR)-6-hydroxymethyl-4-(2-fluorophenyl)-2-tert-butyloxycarbonylperhydroisoindol 4-ol | 6.35 g | OCC1CC(C2CN(CC2C1)C(=O)OC(C)(C)C)(O)C1=C(C=CC=C1)F | C20H28FNO4
